US07491735B2
Using general procedure A, 4-(4-aminophenoxy)-benzoic acid methyl ester (Fokin; et al., Chem. Abstr., 72, 12294, 1970) (556 mg, 2.29 mmol) and 1-Boc-4-piperidone (478 mg, 2.40 mmol) gave 4-[4-(4-methoxycarbonyl-phenoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester (917 mg, 94%) as a crystalline solid.

reactant | 4-(4-aminophenoxy)-benzoic acid methyl ester | 2.29 mmol, 556 mg | COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C14H13NO3
reactant | 1-Boc-4-piperidone | 2.40 mmol, 478 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-[4-(4-methoxycarbonyl-phenoxy)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 917 mg, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OC1=CC=C(C=C1)C(=O)OC | C24H30N2O5
